US04670448
N-Cyano-N'-methyl-N"-[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]guanidine
A solution of 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine (1.0 g) in diethylether (20 ml) was added to a refluxing solution of N-cyanocarbimidothioic acid dimethyl ester (0.45 g) in ether (50 ml) and the mixture heated at reflux for 8 h. After cooling, a colourless solid (0.65 g) precipitated and was collected by filtration, m.p. 121°-122°. This material was added to a solution of methylamine (33% in ethanol, 10 ml) in ethanol (50 ml) and the solution heated at reflux for 16 h. The mixture was evaporated to give a solid which was recrystallized from ethyl acetate to give the title compound as a colourless solid (0.34 g), m.p. 138°-139°.

reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine | 1.0 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CN | C19H30N6O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-Cyano-N'-methyl-N"-[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]guanidine | 0.34 g | C(#N)NC(=NCC1=NN(C(=N1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C)NC | C22H33N9O
